US05108905
EDTA;
trans-1,2-cyclohexanediamine-N,N,N',N'-tetraacetic acid; N,N-di(hydroxyethyl)glycine; 1,3-diaminopropan-2-ol-N,N,N',N'-tetraacetic acid; diethylenetriamine-N,N,N',N",N"'-pentaacetic acid; ethylenediamine-N,N'-diacetic acid; ethylenediamine-N,N'-dipropionic acid; N-hydroxyethyl-ethylenediamine-N,N',N'-triacetic acid; ethylenediamine-N,N,N',N'-tetrakis(methylene-phosphonic acid); glycoletherdiamine-N,N,N',N'-tetraacetic acid; hexamethylenediamine-N,N,N',N'-tetraacetic acid; hydroxyethyliminodiacetic acid; iminodiacetic acid; 1,2-diaminopropane-N,N,N',N'-tetraacetic acid; nitrilotriacetic acid; nitrilotripropionic acid; nitrilotris (methylenephosphonic acid) ; triethylenetetramine-N,N,N',N",N"',M"'-hexaacetic acid; ethylenediamine-N,N'-bis(methylenephosphonic acid); ethylenediamine-di(o-hydroxyphenylacetic acid); 1,2-bis(2-aminophenoxy)ethane-N,N,N',N'-tetraacetic acid.

reactant | trans-1,2-cyclohexanediamine-N,N,N',N'-tetraacetic acid | C1CC[C@H]([C@@H](C1)N(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.C1CC[C@@H]([C@H](C1)N(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | 2C14H22N2O8
reactant | N,N-di(hydroxyethyl)glycine | OCCN(CC(=O)O)CCO | C6H13NO4
reactant | ethylenediamine-N,N'-diacetic acid | C(CNCC(=O)O)NCC(=O)O | C6H12N2O4
reactant | ethylenediamine-N,N'-dipropionic acid | C(CNCCNCCC(=O)O)C(=O)O | C8H16N2O4
reactant | glycoletherdiamine-N,N,N',N'-tetraacetic acid | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
reactant | hexamethylenediamine-N,N,N',N'-tetraacetic acid | C(CCCN(CC(=O)O)CC(=O)O)CCN(CC(=O)O)CC(=O)O | C14H24N2O8
reactant | hydroxyethyliminodiacetic acid | OCCN(CC(=O)O)CC(=O)O | C6H11NO5
reactant | iminodiacetic acid | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | 1,2-diaminopropane-N,N,N',N'-tetraacetic acid | CC(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C11H18N2O8
reactant | nitrilotriacetic acid | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
reactant | nitrilotripropionic acid | N(CCC(=O)O)(CCC(=O)O)CCC(=O)O | C9H15NO6
reactant | nitrilotris (methylenephosphonic acid) | C(N(CP(=O)(O)O)CP(=O)(O)O)P(=O)(O)O | C3H12NO9P3
reactant | ethylenediamine-di(o-hydroxyphenylacetic acid) | C1=CC=C(C(=C1)C(C(=O)O)NCCNC(C2=CC=CC=C2O)C(=O)O)O | C18H20N2O6
reactant | 1,2-bis(2-aminophenoxy)ethane-N,N,N',N'-tetraacetic acid | C1=CC=C(C(=C1)N(CC(=O)O)CC(=O)O)OCCOC2=CC=CC=C2N(CC(=O)O)CC(=O)O | C22H24N2O10
product | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
